US05013863
A suspension of 2.46 g of 3-aminopropylphosphonous acid in 20 ml of hexamethyldisilazane is heated to reflux under an inert gas for 24 hours. The resulting clear solution is cooled to room temperature and 14.4 g of freshly distilled methyl vinyl ketone are added. An exothermic reaction ensues, the reaction temperature rising to approximately 60° C. The reaction mixture is stirred for 1 hour at a temperature between 50° and 60°. After cooling to room temperature, the volatile materials are removed in vacuo to yield a colourless oil. This oil is dissolved in water and stirred at room temperature for 1 hour and the aqueous layer is evaporated to dryness at 55°. A semi-solid residue is obtained which is dissolved in 50 ml of 2.0 M aqueous hydrochloric acid and washed with dichloromethane, (3×100 ml), and ether (1×100 ml). After removal of the water, the white solid is co-evaporated with water (10×50 ml) and then with absolute ethanol (10× 50 ml). Crystallisation of the residue form ethanol yields 3-aminopropyl(3-oxobutyl)phosphinic acid hydrochloride. Treatment of the hydrochloride with propylene oxide/ethanol or passage through a DOWEX® 50 W x 8 (14-40 mesh) ion-exchange column gives 3-aminopropyl(3-oxobutyl)phosphinic acid, m.p. 163-5° (decomp.), as a white solid.

reactant | 3-aminopropylphosphonous acid | 2.46 g | NCCCP(O)O | C3H10NO2P
reactant | methyl vinyl ketone | C(=C)C(=O)C | C4H6O
reactant | hydrochloric acid | 2.0 M, 50 ml | Cl | ClH
solvent | hexamethyldisilazane | 20 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | water | O | H2O
product | 3-aminopropyl(3-oxobutyl)phosphinic acid hydrochloride | Cl.NCCCP(O)(=O)CCC(C)=O | InChI=1S/C7H16NO3P.ClH/c1-7(9)3-6-12(10,11)5-2-4-8;/h2-6,8H2,1H3,(H,10,11);1H
